US08859580B2
4-Hydroxy-9-azonia-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-triene bromide
A solution of 4-methoxy-9-aza-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-triene (0.50 g, oxalate salt) in hydrobromic acid (48% in water, 10 mL) is stirred at reflux temperature for 3 h. Then, the solution is concentrated under reduced pressure and the residue is azetropically dried using toluene and ethanol. The residue is washed with acetone and dried to give the product as a solid.

reactant | 4-methoxy-9-aza-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-triene | 0.50 g | COC=1C=C2C3CCNC(C2=CC1)C3 | C12H15NO
reactant | hydrobromic acid | 10 mL | Br | BrH
product | 4-Hydroxy-9-azonia-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-triene bromide | [Br-].OC=1C=C2C3CC[NH2+]C(C2=CC1)C3 | InChI=1S/C11H13NO.BrH/c13-8-1-2-9-10(6-8)7-3-4-12-11(9)5-7;/h1-2,6-7,11-13H,3-5H2;1H
